US20010027196A1
To a stirred solution of 200 mg (0.62 mmol) 2-amino-4-furan-2-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile and 8 mg (0.06 mmol) 4-dimethylaminopyridine in 2 ml pyridine was added dropwise 0.73 ml (6.18 mmol) benzoyl bromide and the reaction mixture stirred at 50° C. for 3 hours. The reaction mixture was then cooled to room temperature and partitioned between water and ethyl acetate. The combined organic phases were dried with sodium sulfate and concentrated in vacuo. Chromatography (1/2 ethyl acetate/hexane then 1/1 ethyl acetate/hexane then ethyl acetate) followed by trituration in ether afforded 100 mg (30%) N-benzoyl-N-[5-cyano-4-furan-2-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-2-yl]-benzamide as a white crystalline solid. ES-MS m/e (%): 532 (M+H+, 68).

reactant | 2-amino-4-furan-2-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile | 0.62 mmol, 200 mg | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)SCCC1=NC=CC=C1 | C16H13N5OS
reactant | benzoyl bromide | 6.18 mmol, 0.73 ml | C(C1=CC=CC=C1)(=O)Br | C7H5BrO
catalyst | 4-dimethylaminopyridine | 0.06 mmol, 8 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-benzoyl-N-[5-cyano-4-furan-2-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-2-yl]-benzamide | 100 mg, 30% | C(C1=CC=CC=C1)(=O)N(C(C1=CC=CC=C1)=O)C1=NC(=C(C(=N1)C=1OC=CC1)C#N)SCCC1=NC=CC=C1 | C30H21N5O3S
